US20010007032A1
Preparation of the 5-phenyl-3-thioureido-1,2,4-thiadiazole (PTT)
3-[N′-(benzoyl)thioureido]-5-phenyl-1,2,4-thiadiazole (BzPTT; 1 kg, 2.94 moles) was placed in a 12-L reaction vessel. A solution of KOH (8.8 L; 3.0 M in water) was added with stirring. The reaction milieu (initially yellow) was heated to 60° C. for about 1 hour or until completion with vigorous stirring. Completion of the reaction was determined either by a color change, e.g., from yellow (BzPTT) to white (PTT), or by monitoring by NMR. Concentrated HCl (2.2 L) was added with stirring at 0-10° C. to lower the pH to about 2-3 by Litmus paper. Concentrated ammonium hydroxide (241 mL) was added to the reaction milieu to raise the pH to about 8, which is more than 4 pH units greater than the pKa of the benzoic acid. After cooling in an ice bath for 30 minutes, the PTT was isolated by filtration in a Büchner funnel over filter paper and dried at room temperature overnight until dryness. The yield of PTT was about 97.4% and the product was about 99.7% pure as determined by HPLC. The H1NMR and 13C NMR spectrum of the product was consistent with that of a reference sample. Mp (253-255° C.) and mass spectroscopy were also used to identify the product.

reactant | 3-[N′-(benzoyl)thioureido]-5-phenyl-1,2,4-thiadiazole | 2.94 moles, 1 kg | C(C1=CC=CC=C1)(=O)NC(NC1=NSC(=N1)C1=CC=CC=C1)=S | C16H12N4OS2
reactant | KOH | 3.0 M, 8.8 L | [OH-].[K+]
reactant | HCl | 2.2 L | Cl | ClH
reactant | ammonium hydroxide | 241 mL | [OH-].[NH4+]
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 5-phenyl-3-thioureido-1,2,4-thiadiazole | C1(=CC=CC=C1)C1=NC(=NS1)NC(=S)N | C9H8N4S2
